** sch_path: /foss/designs/ICONS2026/th_nmos/xschem/tb_th_boot_ota.sch
**.subckt tb_th_boot_ota
E1 vsp vsc vsd GND 0.5
E2 vsm vsc vsd GND -0.5
Vcm vsc GND vcm
Vsup vdd GND vdd
Vdm vsd GND sin(0 vamp fin 0)
x1 track vip vop vom vim GND vdd th_boot_ota
Rp vsp vip rs
Rm vim vsm rs
Vtrk track GND dc vdd pulse(0 vdd 0 trf trf {per/2} per 0)
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.inc /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.param vdd=1.2 vcm=0.3 vamp=0.4
.param rs=10 cl=5p cb=5p w=50u l=0.13u nf=10 rsw=20 vh=0
.param nfft=32 fclk=500Meg per=1/fclk trf=100p
.param bin=1 fin=fclk*bin/nfft

.csparam per = per
.csparam t1 = 4*per
.csparam tstart = 2.05n
.csparam tstop = {2.05n + per*(nfft+5)}
.option method=trap reltol=1e-6

.control
    tran 1n $&t1
    write tb_th_boot_ota.raw

    option interp
    set wr_singlescale
    set wr_vecnames
    compose bin_vec start=1 stop=15 step=1
    foreach i $&bin_vec
      alterparam bin=$i
      reset
      tran $&per $&tstop $&tstart
      wrdata tb_th_boot_ota.txt v(vop)
      set appendwrite
      unset set wr_vecnames
    end
    unset appendwrite
    op
    show n.x1.xmdum.nsg13_lv_nmos
.endc


**** end user architecture code
**.ends

* expanding   symbol:  th_boot_ota.sym # of pins=7
** sym_path: /foss/designs/ICONS2026/th_nmos/xschem/th_boot_ota.sym
** sch_path: /foss/designs/ICONS2026/th_nmos/xschem/th_boot_ota.sch
.subckt th_boot_ota track vip vop vom vim vss vdd
*.ipin vip
*.ipin vim
*.opin vom
*.ipin track
*.iopin vss
*.iopin vdd
*.opin vop
Cm vom vss {cl}
Cm1 vtop vbot {cb}
S1 vbot vss ph vss SW1
S2 vdd vtop ph vss SW1
S3 vgp vtop pt vss SW1
S4 vip vbot pt vss SW1
S5 vss vgp ph vss SW1
V1 net3 vss vcm
V2 net4 net3 vdd
Cp1 ph vss 10f
Cp2 pt vss 10f
Cp vcp votap {cl}
S6 votap vss track_res vss SW1
G1 vop vss votap vss 100e-3
S7 vop vcp ph vss SW1
Cp3 vop vss {cl}
S8 vop vss pt vss SW1
x6 ph net2 VDD VSS sg13g2_inv_2
x4 pt net1 VDD VSS sg13g2_inv_2
x1 trackb track_res VDD VSS sg13g2_inv_2
x5 net2 trackb net1 VDD VSS sg13g2_nand2_2
x2 net1 net2 track_res VDD VSS sg13g2_nand2_2
Xmdum net3 net4 net3 vss sg13_lv_nmos w={w/nf} l={l} ng=1 m=nf
Cp4 vgp vss 100f
R1 track_res track 1
S9 vcp vip vgp vss SW1
R2 vom vim 10
.ends

.GLOBAL GND
**** begin user architecture code
.MODEL SW1 SW
+ VT=0.6 VH=vh
+ RON=10 ROFF=10G
**** end user architecture code
.end
